US08202883B2
A total of 5.0 g 6-Chloro-pyrido[2,3-b]pyrazin-3-ylamine (27.7 mmol; 1 eq) was dissolved in 150 mL of dry DMF. 1.32 g NaH (60% dispersion in mineral oil; 33.2 mmol; 1.2 eq) was added and the dark brown solution was stirred at room temperature for 1 hour. 2.4 g (27.7 mmol; 1 eq) ethyl isothiocyanate was then added and the resulting mixture was stirred at room temperature for 3 h. The reaction mixture was then poured into 500 mL of water. The solution was neutralized with 1 N HCl whereas the product crystallizes. The brown solid was filtered of and recrystallised from dichloromethane/diethyl ether to afford 3.6 g (48.5% yield) of 1-(6-Chloro-pyrido[2,3-b]pyrazin-3-yl)-3-ethyl-thiourea.

reactant | 6-Chloro-pyrido[2,3-b]pyrazin-3-ylamine | 27.7 mmol, 5.0 g, 1 eq | ClC=1C=CC=2C(=NC(=CN2)N)N1 | C7H5ClN4
reactant | NaH | 33.2 mmol, 1.32 g, 1.2 eq | [H-].[Na+]
reactant | ethyl isothiocyanate | 27.7 mmol, 2.4 g, 1 eq | C(C)N=C=S | C3H5NS
reactant | HCl | 1 N | Cl | ClH
solvent | DMF | 150 mL | CN(C)C=O | C3H7NO
solvent | water | 500 mL | O | H2O
product | 1-(6-Chloro-pyrido[2,3-b]pyrazin-3-yl)-3-ethyl-thiourea | 3.6 g, 48.5% yield | ClC=1C=CC=2C(=NC(=CN2)NC(=S)NCC)N1 | C10H10ClN5S
